US07176216B2
N-Cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]amine
The obtained tert-butyl N-cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate was dissolved in ethyl acetate (5 mL) without purification, and then 4N hydrochloric acid (ethyl acetate solution; 10 mL) was added thereto and the reaction mixture was stirred for 30 minutes at 40° C. The reaction mixture was neutralized with a 5N aqueous sodium hydroxide solution while cooling with ice, and then the reaction mixture was extracted with ethyl acetate and the organic extract was washed with water and brine. The organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (95 mg) was obtained as a yellow oil from the n-hexane:ethyl acetate (2:3) fraction.

reactant | tert-butyl N-cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | C1(CC1)CN(C(OC(C)(C)C)=O)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2OC)COC)OC)COC | C28H37N3O6
reactant | hydrochloric acid | 4N, 10 mL | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 95 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2OC)COC)OC)COC | C23H29N3O4
